US05516774
N-[4-(5H-Pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)ylcarbonyl)phenyl]-2-(1H-[1,2,4]-triazol-1-yl)acetamide
To a suspension of 0.20 g of 1,2,4-triazole sodium in 1 ml of 1,3-dimethyl-3,4,5,6-tetrahydro2(1H)-pyrimidinone is added 0.10 g of 2-chloro-N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl] acetamide in 1 ml of 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone followed by stirring at room temperature for 3 hours. The reaction mixture is quenched with 15 ml of water and the resulting solid is collected, washed with water and hexanes to give 70 mg of the desired product as a tan solid. MS(CI): 413(M+H).

reactant | 1,2,4-triazole sodium | 0.20 g | [Na].N1N=CN=C1
reactant | 2-chloro-N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl] acetamide | 0.10 g | ClCC(=O)NC1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C21H18ClN3O2
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro2(1H)-pyrimidinone | 1 ml | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 1 ml | CN1C(N(CCC1)C)=O | C6H12N2O
product | N-[4-(5H-Pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)ylcarbonyl)phenyl]-2-(1H-[1,2,4]-triazol-1-yl)acetamide | 70 mg | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(CN1N=CN=C1)=O | C23H20N6O2
